US07696223B2
b) {[4-(4-Cyano-phenyl)-7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carbonyl]-amino}-acetic acid
A mixture of 4-(4-cyano-phenyl)-7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (132 mg, 0.33 mmole) and glycine (2.46 g, 32.8 mmole) in 0.5 M sodium methoxide/methanol (49 ml) was refluxed for 16 h before it was cooled to room temperature and concentrated in vacuo. It was dissolved in water (100 ml) and extracted with dichloromethane (2×50 ml). The remaining aqueous solution was acidified to pH=2 with 0.1 N HCl (28 ml). The resulting precipitate was filtered, washed with water and dried to give the title compound as a white solid (76 mg). 1H NMR (DMSO-d6, 200 MHz): δ=9.56 (t, 1H), 8.91 (d, J=8.2 Hz, 2H), 8.19 (m, 2H), 8.00 (d, J=8.2 Hz, 2H), 7.64 (m, 3H), 4.07 (d, J=6.2 Hz, 2H); MS: (+) m/z 429.23 (M−1).

reactant | 4-(4-cyano-phenyl)-7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.33 mmole, 132 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)C1=CC=C(C=C1)C#N)N=C(S2)C2=CC=CC=C2)O | C22H15N3O3S
reactant | glycine | 32.8 mmole, 2.46 g | NCC(=O)O | C2H5NO2
solvent | sodium methoxide methanol | 0.5 M, 49 ml | C[O-].[Na+].CO
product | {[4-(4-Cyano-phenyl)-7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carbonyl]-amino}-acetic acid | 76 mg | C(#N)C1=CC=C(C=C1)C1=NC(=C(C2=C1N=C(S2)C2=CC=CC=C2)O)C(=O)NCC(=O)O | C22H14N4O4S
